US05001157
2-[[(Benzoylamino)thioxomethyl)amino]-5-methylbenzamide
To a stirred mixture of 4.5 g of 2-amino-5-methylbenzamide and 200 ml of ether was added dropwise, a solution of 4.9 g benzoyl isothiocyanate in 100 ml of ether over 20 minutes. After stirring overnight, the solid was collected, giving 8.7 g of the desired product as white crystals, mp 198°-201° C. (dec.).

reactant | 2-amino-5-methylbenzamide | 4.5 g | NC1=C(C(=O)N)C=C(C=C1)C | C8H10N2O
reactant | benzoyl isothiocyanate | 4.9 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-[[(Benzoylamino)thioxomethyl)amino]-5-methylbenzamide | 8.7 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C(=O)N)C=C(C=C1)C | C16H15N3O2S
